US09125909B2
102 g 2-bromo-iodobenzene (362 mmol) and 50 g 2,4-dimethylthiophenol (362 mmol) are dissolved in 1000 ml toluene. To this solution was added 81 g BOC-piperazine (434 mmol) followed by 2.08 g Pddba2 (1 mol %) and 4.51 g rac-BINAP (2 mol %). The mixture was purged with nitrogen for 5 minutes before adding a slurry of 87 g NaOBut (905 mmol) in 300 ml toluene. The suspension was heated to 100° C. under nitrogen overnight. A GCMS analysis showed full conversion into the intermediate product (1-(2-Bromo-phenylsulfanyl)-2,4-dimethyl-benzene) and the temperature was increased to reflux (120° C.) for another 24 hours. A HPLC analysis showed full conversion into the intermediate (1-BOC-4-[2-(2,4-Dimethyl-phenylsulfanyl)-phenyl]-piperazine). The reaction mixture was cooled on ice for one hour before filtering the mixture. The filter cake is washed with 2×200 ml toluene and to the combined filtrates was added 80 ml 48-wt % HBr (aq.) followed by heating to reflux for 18 hours after which full deprotection was detected by HPLC. The mixture was cooled on ice for 2 hours and filtrated. The brownish solid was dissolved in 1000 ml boiling H2O for 1 hour together with activated charcoal (25 g), filtered while hot and left to cool. The precipitate was collected by filtration and drying in vacuum at 40° C. overnight produced 49 g of 4-[2-(2,4-Dimethyl-phenylsulfanyl)-phenyl]-piperazine hydrobromide (36%) as a white solid.

reactant | 2-bromo-iodobenzene | 362 mmol, 102 g | BrC1=C(C=CC=C1)I | C6H4BrI
reactant | 2,4-dimethylthiophenol | 362 mmol, 50 g | CC1=C(C=CC(=C1)C)S | C8H10S
reactant | BOC-piperazine | 434 mmol, 81 g | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
solvent | toluene | 1000 ml | C1(=CC=CC=C1)C | C7H8
catalyst | rac-BINAP | 4.51 g | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
product | 4-[2-(2,4-Dimethyl-phenylsulfanyl)-phenyl]-piperazine hydrobromide | 49 g, 36% | Br.CC1=C(C=CC(=C1)C)SC1=C(C=CC=C1)N1CCNCC1 | InChI=1S/C18H22N2S.BrH/c1-14-7-8-17(15(2)13-14)21-18-6-4-3-5-16(18)20-11-9-19-10-12-20;/h3-8,13,19H,9-12H2,1-2H3;1H
